US06194406B1
1-(2,5-Dimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 102.1.2 using 1-(2,5-dimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (0.55 g, 1.27 mmol) and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (0.71 g, 1.3 mmol) to give, after chromatography on silica gel eluting with dichloromethane/methanol/concentrated aqueous ammonia 95/5/0.05, the title compound: Rf=0.85 (silica gel, dichloromethane/methanol/concentrrated aqueous ammonia 90/10/0.1).

reactant | 1-(2,5-dimethoxybenzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.27 mmol, 0.55 g | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C=C1)OC | C22H27NO6S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 1.3 mmol, 0.71 g | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
solvent | dichloromethane methanol | ClCCl.CO
product | 1-(2,5-Dimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C=C1)OC | C37H47N5O4
